US07166623B2
5′-[2-t-Butoxycarbonyl(hydrazinocarbonyl)]-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (450 mg, 1.06 mmol) was dissolved in trifluoroacetic acid (4 ml) and stirred at room temperature for 3.5 h. The trifluoroacetic acid was evaporated under vacuum and the residue was partitioned between DCM and aqueous sodium bicarbonate. The organic phase and any precipitate produced were separated, washed with brine and concentrated under vacuum to give N-(cyclopropylmethyl)-5′-(hydrazinocarbonyl)-2′-methyl-1,1′-biphenyl-4-carboxamide as a white solid (210 mg, 61%).

reactant | 5′-[2-t-Butoxycarbonyl(hydrazinocarbonyl)]-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 1.06 mmol, 450 mg | C(C)(C)(C)OC(=O)NNC(=O)C=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C24H29N3O4
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(cyclopropylmethyl)-5′-(hydrazinocarbonyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 210 mg, 61% | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(=O)NN)C | C19H21N3O2
